US09233956B2
2-Propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}carbamate
Following a procedure analogous to the procedure described in Intermediate 6, using 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]phenyl}carbamate (10.0 g, 30.14 mmol), and 2-methylpropanethioamide (3.73 g, 36.17 mmol), prepared by a procedure analogous to Intermediate 1, 5.74 g of the title compound was obtained. MS (ESI): 415 [M+H]+.

reactant | 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]phenyl}carbamate | 30.14 mmol, 10.0 g | ClC1=NC=CC(=N1)CC(=O)C=1C=C(C=CC1)NC(OCC=C)=O | C16H14ClN3O3
reactant | 2-methylpropanethioamide | 36.17 mmol, 3.73 g | CC(C(N)=S)C | C4H9NS
product | 2-Propen-1-yl {3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}carbamate | 5.74 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NC(OCC=C)=O | C20H19ClN4O2S
